US04703059
Sodium caprylate 6.6 g was added to 200 ml of isopropanol, and with stirring, the mixture was heated to 50° C. To the resulting solution was added 22.2 g of tris(β,β-dimethylphenethyl)tin chloride over 30 minutes. The mixture was further stirred for 30 minutes. The insoluble material precipitated was separated by filtration, and the filtrate was concentrated to give 25.1% (yield 94.8%) of tris(β,β-dimethylphenethyl)tin caprylate as a slightly pale yellow viscous syrup.

reactant | Sodium caprylate | 6.6 g | C(CCCCCCC)(=O)[O-].[Na+]
reactant | tris(β,β-dimethylphenethyl)tin chloride | 22.2 g | CC(C[Sn](CC(C1=CC=CC=C1)(C)C)(CC(C1=CC=CC=C1)(C)C)Cl)(C1=CC=CC=C1)C
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | tris(β,β-dimethylphenethyl)tin caprylate | yield 94.8% | C(CCCCCCC)(=O)[O-].CC(C[Sn+](CC(C1=CC=CC=C1)(C)C)CC(C1=CC=CC=C1)(C)C)(C1=CC=CC=C1)C | InChI=1S/3C10H13.C8H16O2.Sn/c3*1-10(2,3)9-7-5-4-6-8-9;1-2-3-4-5-6-7-8(9)10;/h3*4-8H,1H2,2-3H3;2-7H2,1H3,(H,9,10);/q;;;;+1/p-1
